US08748418B2
Prepared in an analogous manner as described for intermediate A9A or A13A from (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (intermediate A16B) (200 mg, 546 μmol) and commercially available 3-amino-5-fluoropyridine [CAS no 210169-05-4] (122 mg, 1.09 mmol). The (R)-6,6-difluoro-5-(2-fluoro-5-(5-fluoropyridin-3-ylamino)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one (56 mg, 26%) was obtained as an off-white foam. MS (ISP): m/z=398.2 [(M+H)+].

reactant | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 546 μmol, 200 mg | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C14H15BrF3NO2
reactant | 3-amino-5-fluoropyridine | NC=1C=NC=C(C1)F | C5H5FN2
product | (R)-6,6-difluoro-5-(2-fluoro-5-(5-fluoropyridin-3-ylamino)phenyl)-5,7,7-trimethyl-1,4-oxazepan-3-one | 56 mg, 26% | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)NC=1C=NC=C(C1)F)F)F | C19H19F4N3O2
